* ============================================================
* SDF timing + SKY130 transistor-level electrical eye
* ============================================================

.lib "/home/rudybro/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

* ------------------------------------------------------------
* Supply
* ------------------------------------------------------------

VDD vdd 0 1.8

* ------------------------------------------------------------
* Timing-aware serial data from Xcelium + SDF
* ------------------------------------------------------------

AIN %v[din] sdf_source

.model sdf_source filesource (
+ file="serial_data_sdf.pwl"
+ amploffset=[0]
+ amplscale=[1]
+ timeoffset=0
+ timescale=1
+ timerelative=false
+ amplstep=false
+ )
* ------------------------------------------------------------
* SKY130 TX pre-driver
*
* First inverter
* ------------------------------------------------------------

XP1 n1 din vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2
XN1 n1 din 0   0   sky130_fd_pr__nfet_01v8 l=0.15 w=1

* ------------------------------------------------------------
* SKY130 output driver
*
* Second inverter also restores the original data polarity.
* Made larger to behave more like an output driver.
* ------------------------------------------------------------

XP2 tx n1 vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8
XN2 tx n1 0   0   sky130_fd_pr__nfet_01v8 l=0.15 w=4

* ------------------------------------------------------------
* Simplified electrical channel
* ------------------------------------------------------------

RCHANNEL tx rx 500
CCHANNEL rx 0 2p

* Receiver/input capacitance
CLOAD rx 0 100f

* ------------------------------------------------------------
* Transient simulation
* Original serializer UI = 10 ns
* ------------------------------------------------------------

.tran 10p 3.2u

.control

run

* Make an easy two-column file:
* time   V(rx)
set wr_singlescale
wrdata eye_data.txt v(rx)

* First inspect the electrical waveform
plot v(din) v(tx) v(rx)

.endc

.end